US05723458
a) (3,3,3-Trifluoropropyl)triphenylphosphonium iodide
A solution of triphenylphosphine (Aldrich, 11.7 g) and 3,3,3-trifluoropropyl iodid (Lancaster, 10 g) was vigorously refluxed in xylenes (75 mL) for 2 days. The solid which formed was filtered and washed with xylenes then air dried to yield a white solid (16.6 g). 1H NMR and elemental analysis are consistent with the proposed structure.

reactant | triphenylphosphine | 11.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,3,3-trifluoropropyl iodid | 10 g | FC(CCI)(F)F | C3H4F3I
product | (3,3,3-Trifluoropropyl)triphenylphosphonium iodide | 16.6 g | [I-].FC(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F | InChI=1S/C21H19F3P.HI/c22-21(23,24)16-17-25(18-10-4-1-5-11-18,19-12-6-2-7-13-19)20-14-8-3-9-15-20;/h1-15H,16-17H2;1H/q+1;/p-1
